US08912176B2
Preparation of 1-cyclobutyl-4-{[1-(cyclohexylcarbonyl)azetidin-3-yl]carbonyl}-1,4-diazepane. Potency Range A
To a stirred solution of cyclohexanecarboxylic acid (10.8 mg, 0.084 mmol) in DCM/DMF (1.1 ml) was added HOBt (11.4 mg, 0.084 mmol) and EDCI (16.1 mg, 0.084 mmol). After 10 mins a solution of 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (20 mg, 0.084 mmol) in DCM (1 ml) and DIPEA (0.01 ml, 0.084 mmol) was added dropwise. After 15 h the solvent was evaporated at reduced pressure and purified by silica FCC (eluting with 99:1 to 95:5 gradient of DCM/2M NH3 in MeOH) to give the title compound (24 mg, 82% yield) as brown oil.

reactant | cyclohexanecarboxylic acid | 0.084 mmol, 10.8 mg | C1(CCCCC1)C(=O)O | C7H12O2
reactant | HOBt | 0.084 mmol, 11.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.084 mmol, 16.1 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 0.084 mmol, 20 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
reactant | DIPEA | 0.084 mmol, 0.01 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM DMF | 1.1 ml | C(Cl)Cl.CN(C)C=O
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-cyclobutyl-4-{[1-(cyclohexylcarbonyl)azetidin-3-yl]carbonyl}-1,4-diazepane | 24 mg, 82% yield | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)C1CCCCC1 | C20H33N3O2
